Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
back pain, orthostasis

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo woman with h/o osteoporosis , cholangiocarcinoma s/p 
curative resection ___ years ago per her report, now with mid-CBD 
adenocarcinoma s/p metallic stent placement 2 weeks ago for 
stricture and pancreatic head mass concerning for malignancy 
presents with lower back pain, and some lightheadedness with 
orthostatic hypotension measured by ___ yesteday.
.
She has had intermittent lower back pain starting ___ months 
ago, that became worse since having a laparoscopic surgery for 
staging on ___.  The pain is sharp, and moves from side to 
side but does not radiate to her legs.  The pain is triggered by 
movement and disappears with rest, and has not improved with 
oxycodone.  She has had no paresthias.  There was no acute 
change in her pain today.
.
Regarding her BP, she was noted to have orthostatic BP per ___ 
yesterday.  She was dizzy this morning and had fall to her knees 
without trauma or LOC.  She was supposed to have CT abdomen 
today for evaluation of pancreatic mass & staging but due to 
concern for her clinical deterioration she was sent to ED at the 
request of her PCP for evaluation of orthostasis.  Patient's PCP 
called family while patient was driving for outpatient CT, and 
directed them to the ED.
.
In the ED her vitals were T 97.8, HR 95, BP 125/54, RR 16, SaO2 
100% on RA.  She was given IV morphine x 1 mg, and 500 cc NS.  
Orthostatic vitals were: sitting BP 125/54, HR; standing, BP 
132/49, HR 100.
. 
On the floor, she was alert and oriented, NAD.  VS: T: 99.4, BP: 
140/60, P: 88, RR: 18, SaO2: 98% on RA.
.
Review of systems:  
(+) Per HPI
ROS is positive for 20 lbs weight loss over past month with 
decreased appetite/early satiety and abdominal bloating with 
some nausea.  
(-) Denies fever, chills, cough, shortness of breath, chest 
pain, palpitations, nausea, vomiting, diarrhea, constipation or 
abdominal pain.  No recent change in bowel or bladder habits.  
No hematuria or hematochezia.

 
Past Medical History:
TB s/p partial lobectomy
cervical stenosis
hiatal hernia
hypercholesterolemia
osteoporosis
arthritis
cholecystitis
cholangiocarcinoma s/p resection (no chemotherapy)

PSHx: 
laparascopic cholecystectomy ___ yrs ago  
patellar surgery
partial lobectomy for TB (Ghon complexes) 
open appendectomy

 
Social History:
___
Family History:
Aunt with colon CA.  Father had MI in his late ___.

 
Physical Exam:
Vitals: T: 99.4, BP: 140/60, P: 88, RR: 18, SaO2: 98% on RA
General: Alert, oriented x 3, no acute distress, cachectic
HEENT: Dry MM, Sclera anicteric, oropharynx clear  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi.  Surgical scar over R scapular region.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-distended, mild TTP in LLQ, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly, 
negative ___, port sites intact w steristrips
Back:  kyphosis and mild scoliosis noted; No point tenderness, 
step-offs or muscle spasm, no SI joint tenderness.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: Alery & oriented x3, CN II-XII grossly intact, gait 
unsteady.  Neg straight leg test bilaterally.  Patellar reflexes 
3+ bilaterally, absent achilles bilaterally, neg Babinski 
bilaterally.

Exam at discharge:
normal vital signs, no longer otrhostatic
General: Alert, oriented x 3, no acute distress, cachectic
HEENT: Dry MM, Sclera anicteric, oropharynx clear  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi.  Surgical scar over R scapular region.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-distended, mild TTP in LLQ, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly, 
negative ___, port sites intact w steristrips
Back:  kyphosis and mild scoliosis noted; No point tenderness, 
step-offs or muscle spasm, no SI joint tenderness.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: Alery & oriented x3, CN II-XII grossly intact, gait 
steady with walker
 
Pertinent Results:
Labs at discharge:

WBC  RBC   Hgb Hct  MCV MCH  MCHC  RDW  Plt Ct 
9.4 4.16* 12.3 37.8  91 29.6 32.6  14.1  438

Glucose UreaN Creat  Na  K   Cl HCO3 AnGap 
   92     17   0.8  138 5.1 ___

ALT AST LD(LDH)  AlkPhos Amylase TotBili
 19  27 298*       183    44       0.8

Albumin Calcium Phos  Mg 
  3.9     9.5   4.3   2.9

Blood Nitrite Protein Glucose Ketone Bilirub Urobiln  pH Leuks 
  NEG   NEG     NEG     NEG     40     NEG     NEG   7.0   TR

CTA pancreas wet read:
large hiatal hernia 
bibasilar atelectasis. 
hypodense lesions in the liver. 
pneumobilia is increased. 
new metallic stent placed with removal of prior billiary stent. 
fluid around the stent in pancreatic head. 
no pancreatic lesion noted. 
panc duct dilated to 5mm. 
new compression fracture of L1. 
stranding around the pancreatic head is likely secondary to 
procedure. 
cbd is dilated to 21mm. 
soft tissue mass around hepatic artery and proximal sma is again 
noted 

L-spine:
IMPRESSION: Lateral view shows moderate-to-severe compression of 
the upper 
aspect of the L1 vertebral body, which could be pathologic. Disc 
space 
infection is not excluded, but is unlikely because the endplate 
of the more 
superior vertebral body is intact. Scoliosis in the lumbar spine 
is 
exaggerated at that level, but more inferiorly is probably 
constitutional and 
is probably responsible for degenerative sclerosis of the 
articular facet 
joints and a grade 1 anterolisthesis of L5 relative to S1. 
___ note is 
made of large gas-filled hiatus hernia and a metal stent and 
vascular clips in 
the upper mid abdomen. 

Right hip
IMPRESSION: 
Frontal view of the pelvis and two detailed views of the right 
hip show no 
fracture, subluxation, or dislocation. The pelvic ring and 
acetabulae are 
intact. Relatively mild degenerative eburnation of the 
acetabular roof and 
narrowing of the disc spaces is symmetric 

 

 
  

 

 

 

 
Brief Hospital Course:
___ yo woman with h/o osteoporosis, cholangiocarcinoma s/p 
curative resection ___ years ago per her report, now with mid-CBD 
adenocarcinoma diagnosed ___ s/p metallic stent placement 2 
weeks ago for stricture and pancreatic head mass concerning for 
malignancy presents with lower back pain, and some 
lightheadedness with orthostatic hypotension measured by ___.
.
Back pain:  Appears only with movement, suggesting 
musculoskeletal origin.  Most likely due to bony or soft tissue 
metastasis in setting of malignancy.  Other less likely 
possibilities include vertebral compression fracture in setting 
of osteoporosis (unlikely in absense of point tenderness and 
muscle spasm), herniated disc (unlikely given reassuring neuro 
exam, negative straight leg test).  Low suspicion for pyelo 
given lack of fever, leukocytosis, and CVA tenderness.  Plain 
films and CT confirmed L1 compression fracture, likely etiology 
of pain.  CT pancreas was obtained in house for staging 
purposes, wet read as above.  Dr. ___ follow up with 
patient in about one week.  Pain was controlled, and physical 
therapy cleared patient for discharge home with services.
.
#  Orthostatic hypotension w lightheadedness and fall on ___: 
 She has not been orthostatic in ED or on floor..  She wasd 
given 1L NS o/n and UOP 600cc since yesterday.  Hct normal, 
lytes normal except for high Mg.  Orthostatic vitals were normal 
prior to discharge.
.
# Depression/anxiety- continued venlafaxine
.  
# FEN: 1 LS NS overnight, replete electrolytes as needed, 
regular diet.
.  
# Prophylaxis: Subcutaneous heparin, no indication for ppi, 
bowel regimen.
.  
# Access: peripherals  
.  
# Code: full  
.  
# Communication: Spoke with pt, her son ___ (can be reached at 
___ cell or work: ___ and PCP, ___ 
(___).
 
Medications on Admission:
Aspirin 81 mg PO
Simvastatin 10 mg PO DAILY 
Alendronate Sodium 70 mg PO QWED 
Venlafaxine 225 mg PO DAILY 
Ca 600 QD
B12 200 QD
Glucosamine 1500 QD

 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).
Disp:*180 Tablet(s)* Refills:*2*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*2*
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. alendronate 70 mg Tablet Sig: One (1) Tablet PO QWED (every 
___.  
8. venlafaxine 75 mg Capsule, Ext Release 24 hr Sig: Three (3) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
9. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours): please take with food.
Disp:*30 Tablet(s)* Refills:*2*
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
11. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO BID (2 times a day).
Disp:*60 Tablet, Chewable(s)* Refills:*2*
12. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
13. glucosamine HCl 1,500 mg Tablet Sig: One (1) Tablet PO once 
a day.  
14. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
L1 compression fracture
Common bile duct adenocarcinoma
Orthostasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with low blood pressure.  This 
was due to dehydration, and resolved with IV fluids.  You were 
also found to have a compression fracture in your lower back, 
and the pain was controlled with medication.  You were seen by 
your surgeon, and a CT scan of your abdomen was obtained while 
you were in the hospital.  You will follow up with Dr. ___ in 
the next two weeks.  You were seen by physical therapy, who 
recommended home ___. 
.
Please see below for your follow up appointments
.
The following changes have been made to your medications:
start Tylenol for pain
start ibuprofen as needed for pain
start oxycodone as needed for pain
start omeprazole 1 tab daily
start calcium and vitamin D
start colace and senna to prevent constipation
 
Followup Instructions:
___